US06900215B2
3-Bromo-7-methoxymethylimidazo[1,2-α]pyrimidine (121 mg, 0.50 mmol) was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 2′-fluoro-5′-(7-methoxymethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile (108 mg, 60%) as a white powder: δH (400 MHz, CDCl3) 3.50 (3H, s), 4.66 (2H, s), 7.19 (1H, d, J 7), 7.39-7.41 (1H, m), 7.53-7.64 (4H, m), 7.69-7.73 (1H, m), 7.85 (1H, dd, J 8 and 1), 7.87 (1H, s), 8.82 (1H, d, J 7); m/z (ES+) 359 (M++H).

reactant | 3-Bromo-7-methoxymethylimidazo[1,2-α]pyrimidine | 0.50 mmol, 121 mg | BrC1=CN=C2N1C=CC(=N2)COC | C8H8BrN3O
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-(7-methoxymethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | 108 mg, 60% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)COC)C=2C(=CC=CC2)C#N | C21H15FN4O
